US07750002B2
To a solution of 4-[(2-methoxy-ethyl)-(2,2,2-trifluoro-acetyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (685 mg) in dry THF (7 mL) was added borane-methyl sulfide complex (405 uL) at 0° C. under inert atmosphere. The reaction mixture was refluxed for 3 h, and then stirred at room temperature overnight, quenched with MeOH, diluted with DCM, washed with brine, dried (MgSO4) and the solvent removed in vacuo. The residue was purified using flash chromatography to yield 4-[(2-methoxy-ethyl)-(2,2,2-trifluoro-ethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester as an oil (635 mg). Treatment of this compound with HCl in DCM/MeOH furnished the desired amine, isolated as the hydrochloride salt.

reactant | 4-[(2-methoxy-ethyl)-(2,2,2-trifluoro-acetyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 685 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C(C(F)(F)F)=O)CCOC | C15H25F3N2O4
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 4-[(2-methoxy-ethyl)-(2,2,2-trifluoro-ethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 635 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC(F)(F)F)CCOC | C15H27F3N2O3
